US08053457B2
6-Chloro-3-iodo-1-(toluene-4-sulfonyl)-1H-indole
A mixture of 6-chloro-1H-indole (2.0 g, 13.2 mmol) and NIS (4.45 g, 19.8 mmol) in THF (60 mL) is stirred at 0° C. After completion the reaction mixture is quenched by H2O. EtOAc is added and the organic layer is washed with brine, dried over MgSO4 and evaporated in vacuo. Silica gel flash chromatography of the residue affords 6-chloro-3-iodo-1H-indole as a colorless powder. A mixture of 6-chloro-3-iodo-1H-indole (4.14 g, 13.2 mmol), TsCl (3.77 g, 19.8 mmol), TBAHS (672 mg, 1.98 mmol) and NaOH (16.0 g, 400 mmol) in THF (60 mL) and H2O (25 mL) is stirred at RT. After completion the reaction mixture is quenched by H2O. EtOAc is added and the organic layer is washed with brine, dried over MgSO4 and evaporated in vacuo. Re-crystallization from EtOAc of the residue affords the title compound as a colorless powder; ES-MS: M−H=430.0: AtRet=8.66 min.

reactant | 6-chloro-3-iodo-1H-indole | 13.2 mmol, 4.14 g | ClC1=CC=C2C(=CNC2=C1)I | C8H5ClIN
reactant | TsCl | 19.8 mmol, 3.77 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | NaOH | 400 mmol, 16.0 g | [OH-].[Na+]
catalyst | TBAHS | 1.98 mmol, 672 mg | CCCC[N+](CCCC)(CCCC)CCCC.OS(=O)(=O)[O-]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | H2O | 25 mL | O | H2O
product | 6-Chloro-3-iodo-1-(toluene-4-sulfonyl)-1H-indole | ClC1=CC=C2C(=CN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C)I | C15H11ClINO2S
